US04267377
(1) 2-Methyl-2-(3-oxo-7-octenyl)-1,3-cyclohexanedione
1,7-Octadien-3-one(0.24 g), 2-methyl-1,3-cyclohexanedione(0.5 g) and triethylamine (1 ml) are added to ethyl acetate (10 ml), and the mixture is stirred at room temperature for 24 hours. The triethylamine and acetic acid are evaporated off and the residue is purified by silica gel column chromatography(methylene chloride) to recover 0.39 g of the above-indicated compound. [IR 1700-1730 cm-1, 920 cm-1 ; NMR 1.10 ppm(3H, singlet, --CH3), 4.6-6.0 ppm(3H, multiplet, vinyl)].

reactant | 1,7-Octadien-3-one | 0.24 g | C=CC(CCCC=C)=O | C8H12O
reactant | 2-methyl-1,3-cyclohexanedione | 0.5 g | CC1C(CCCC1=O)=O | C7H10O2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 2-Methyl-2-(3-oxo-7-octenyl)-1,3-cyclohexanedione | CC1(C(CCCC1=O)=O)CCC(CCCC=C)=O | C15H22O3
